US08609680B2
Preparation of 2-(2-cyano-4-methoxyphenyl)acetic acid (SM-1ah)
The (2-cyano-4-methoxy-phenyl)-acetic acid methyl ester (120 mg, 0.585 mmol) was dissolved in 10 mL THF and 2 mL water and LiOH monohydrate (101 mg, 2.34 mmol) was added. The mixture was heated at 55° C. overnight. The mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was dissolved in 30 mL water and adjusted to pH ˜14 with aqueous 1N NaOH. The aqueous layer was washed with 50 mL of ethyl acetate. The organic extract was discarded and the aqueous phase was treated with 1N HCl (aq.) to pH˜2-3. The aqueous solution was washed with 75 mL ethyl acetate and the organic solution was dried (MgSO4), filtered and concentrated to give 86 mg (77%) of the title compound (SM-1ah) as a yellow solid. MS (ES+) 192.2 (M+H)+ 1H NMR (CDCl3) δ 3.81 (s, 3H), 3.84 (s, 2H), 7.09 (dd, 1H), 7.13 (d, 1H), 7.30 (d, 1H), 10.22 (br s, 1H).

reactant | (2-cyano-4-methoxy-phenyl)-acetic acid methyl ester | 0.585 mmol, 120 mg | COC(CC1=C(C=C(C=C1)OC)C#N)=O | C11H11NO3
reactant | water | 2 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-cyano-4-methoxyphenyl)acetic acid | 86 mg, 77% | C(#N)C1=C(C=CC(=C1)OC)CC(=O)O | C10H9NO3
